US05686452
Under cooling at -78° C., 1.5M diisobutyl aluminum hydride (DIBAH) dissolved in 65 ml of toluene was added to 19.34 g of ethyl 2-indanacetate dissolved in 200 ml of toluene. The mixture was stirred at the same temperature for 1.5 hours. A 15% sodium sulfite aqueous solution was added to the mixture. After the organic layer was collected by separation, washed and dried, the solvent was removed. The residue was purified by silica gel column chromatography (hexane-ethyl acetate (10:1)) to obtain 13.58 g of 2-indanacetaldehyde.

reactant | diisobutyl aluminum hydride | 1.5M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 2-indanacetate | 19.34 g | C1C(CC2=CC=CC=C12)CC(=O)OCC | C13H16O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-indanacetaldehyde | 13.58 g | C1C(CC2=CC=CC=C12)CC=O | C11H12O
